US07935722B2
N-(4-Oxocyclohexyl)isobutyramide
Add pyridinium chlorochromate (561.6 g, 2.61 mol) to N-(4-hydroxycyclohexyl)isobutyramide (321.8 g, 1.74 mol) in CH2Cl2 (8000 mL) and stir mechanically for 24 h under nitrogen. Add silica gel (2000 g), stir, and filter through a silica pad (6000 g). Elute with CH2Cl2 followed by 75-100% EtOAc/hexanes to obtain 210 g of a light brown solid (66%/o). MS (ES): m/z 184 (M+1); 1H NMR(DMSO-d6): δ 5.54 (br s, NH), 4.27 (septet, 1H), 2.20-2.60 (m, 7H), 1.78 (m, 2H), 1.15 (d, 6H).

reactant | pyridinium chlorochromate | 2.61 mol, 561.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | N-(4-hydroxycyclohexyl)isobutyramide | 1.74 mol, 321.8 g | OC1CCC(CC1)NC(C(C)C)=O | C10H19NO2
solvent | CH2Cl2 | 8000 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Oxocyclohexyl)isobutyramide | 210 g, 66% | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
